US05939392
TfO-CH2COOBn
Prepared in the same way as described for TfO-CH2COOMe starting with HO-CH2COOBn

reactant | TfO-CH2COOMe | S(=O)(=O)(C(F)(F)F)OCC(=O)OC | C4H5F3O5S
reactant | HO-CH2COOBn | OCC(=O)OCC1=CC=CC=C1 | C9H10O3
product | TfO-CH2COOBn | S(=O)(=O)(C(F)(F)F)OCC(=O)OCC1=CC=CC=C1 | C10H9F3O5S
